* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1567.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 2.5
V2 -V 0 -2.5
X§U1 N002 N003 N006 -V 0 N002 N007 +V LT1567
R3 N004 N002 147
C1 N006 0 .1µ
C2 N002 N003 270p
R1 N008 N007 147
C3 N004 N008 270p
E1 OUT 0 N004 N008 1
R2 N003 N001 147
R4 N002 N001 536
R5 N001 N005 536
C4 N001 N007 270p
V3 N005 0 AC 1
.ac oct 10 100K 10Meg
.lib LTC4.lib
.backanno
.end
